US07709645B2
125 mg (0.25 mmol) of 3-(2-methoxy-phenyl)-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridine, 14 mg (17 μmol) of dichloro[1,1′-bis(diphenylphoshino)ferrocene]palladium(II) dichloromethane adduct and 65 mg (0.22 mmol) of 5-bromo-N,N-dimethyl-2-(pyrimidin-5-ylamino)-benzamide were place in a microwave vial. 1.5 mL of acetonitrile, 0.75 mL of tetrahydrofuran and 1.5 mL of a saturated aqueous solution of sodium bicarbonate were added. The vial was sealed and irradiated in a Personal Chemistry® Optimizer to 130° C. for 20 min. The organic layer was separated and evaporated. The resulting residue was purified by flash chromatography on silica gel using a gradient of ethyl acetate containing 10% v/v of methanol in hexanes to afford 67 mg (0.11 mmol, 50%) of 5-[3-(2-methoxy-phenyl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridin-5-yl]-N,N-dimethyl-2-(pyrimidin-5-ylamino)-benzamide. MS: m/z 619.0 (M+H+).

reactant | 3-(2-methoxy-phenyl)-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridine | 0.25 mmol, 125 mg | COC1=C(C=CC=C1)C1=CN(C2=NC=C(C=C21)B2OC(C(O2)(C)C)(C)C)S(=O)(=O)C2=CC=C(C=C2)C | C27H29BN2O5S
reactant | 5-bromo-N,N-dimethyl-2-(pyrimidin-5-ylamino)-benzamide | 0.22 mmol, 65 mg | BrC=1C=CC(=C(C(=O)N(C)C)C1)NC=1C=NC=NC1 | C13H13BrN4O
reactant | acetonitrile | 1.5 mL | C(C)#N | C2H3N
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
catalyst | dichloro[1,1′-bis(diphenylphoshino)ferrocene]palladium(II) dichloromethane adduct | 17 μmol, 14 mg | C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C(Cl)Cl.Cl[Pd]Cl.[Fe]
solvent | tetrahydrofuran | 0.75 mL | O1CCCC1 | C4H8O
product | 5-[3-(2-methoxy-phenyl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridin-5-yl]-N,N-dimethyl-2-(pyrimidin-5-ylamino)-benzamide | 0.11 mmol, 67 mg, 50% | COC1=C(C=CC=C1)C1=CN(C2=NC=C(C=C21)C=2C=CC(=C(C(=O)N(C)C)C2)NC=2C=NC=NC2)S(=O)(=O)C2=CC=C(C=C2)C | C34H30N6O4S
